US08980878B2
Sodium azide (158 mg, 2.43 mmol) was added to a solution of methyl 2-(bromomethyl)-5-chlorobenzoate (518 mg, 1.97 mmol) in 3 mL of DMF at room temperature. After stirring overnight, reaction mixture was quenched with 25 mL of water. The aqueous was extracted with ethyl acetate (3×30 mL) and the combined organics were washed with water (2×40 mL) and 50 mL of brine. The organics were dried (Na2SO4), filtered, and concentrated under reduced pressure to yield methyl 2-(azidomethyl)-5-chlorobenzoate (429 mg, 97%) as an off-white solid, which was used in the next step without further purification.

reactant | Sodium azide | 2.43 mmol, 158 mg | [N-]=[N+]=[N-].[Na+]
reactant | methyl 2-(bromomethyl)-5-chlorobenzoate | 1.97 mmol, 518 mg | BrCC1=C(C(=O)OC)C=C(C=C1)Cl | C9H8BrClO2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | methyl 2-(azidomethyl)-5-chlorobenzoate | 429 mg, 97% | N(=[N+]=[N-])CC1=C(C(=O)OC)C=C(C=C1)Cl | C9H8ClN3O2
